US04240821
4-Nitro-6-trifluoromethyl-1,3-benzodithiole-2-thione oxide
To a stirred solution of 7.35 g., (24.7 mmoles) of 4-nitro-6-trifluoromethyl-1,3-benzodithiole-2-thione in 150 ml. of chloroform was added dropwise a solution of 5.17 g., (24.7 mmoles) of 40% peracetic acid in 50 ml. of chloroform over a period of 20 minutes, the temperature being maintained at 8°-12° C.

reactant | 4-nitro-6-trifluoromethyl-1,3-benzodithiole-2-thione | 24.7 mmoles | [N+](=O)([O-])C1=CC(=CC=2SC(SC21)=S)C(F)(F)F | C8H2F3NO2S3
reactant | peracetic acid | 24.7 mmoles | C(C)(=O)OO | C2H4O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Nitro-6-trifluoromethyl-1,3-benzodithiole-2-thione oxide | [N+](=O)([O-])C1=CC(=CC=2SC(SC21)=S=O)C(F)(F)F | C8H2F3NO3S3
